Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transient left sided hemibody numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year-old R-handed ___ speaking 
man, pmh of HTN,  who presents with LUE and LLE numbness and 
weakness x 30 mins. 

Today he was in his usual state of health, he was cleaning at 
work, when he developed a sharp chest pain, sweats and 
lightheadedness for which he sat down, which lasted about 5 mins 
and resolved upon sitting.  A minute later (after the onset of 
chest pain), he had a sudden onset of left face, arm, leg 
numbness and weakness. He had difficultly walking due to 
inability to move or lift up his left leg. He was concerned 
about driving home, so he called his daughter. The symptoms 
gradually resolved so he was able to drive home. He has never 
had weakness or numbness previously.

He called his PCP and has an appointment with him tomorrow, but 
he was concerned about the chest pain (as his mother passed away 
a month ago from MI), so he came to ED for evaluation. He has 
not had chest pain previously. 

On neuro ROS, the pt endorses  last night (1 dpta), he had some 
elbow pain with tingling from elbow to fingers (this is 
different from complaints for today). He endorses a pressure 
headache currently. Denies loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  No bowel or bladder incontinence or 
retention. 

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN 
s/p Hernia Surgery 

 
Social History:
___
Family History:
Mother - passed away from MI 1 month ago 

 
Physical Exam:
Admission Exam:

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: nonlabored on RA 
Cardiac: RRR
Abdomen: ND 
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with 
some difficultly due to language barrier. Attentive, able to 
name ___ backward in ___ without difficulty (stops in ___ 
to say "Its my birthday month!"). Language is fluent in ___ 
with intact repetition and comprehension. Normal prosody. There 
were no paraphasic errors. Pt was able to name both high 
frequency objects, but not low frequency. Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. Pt was able to register 3 objects and recall ___ at 5 
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

Discharge Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: nonlabored on RA 
Cardiac: RRR
Abdomen: ND 
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficultly. Attentive, able to name ___ backward in 
___ without difficulty. Language is fluent in ___ with 
intact repetition and comprehension. Normal prosody. There were 
no paraphasic errors. Pt was able to name both high frequency 
objects, but not low frequency. Speech was not dysarthric. Able 
to follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
CTA w/wo contrast ___
IMPRESSION: 
1. No evidence of hemorrhage or infarct. 
2. Patent intracranial vasculature without significant stenosis, 
occlusion, or aneurysm. 
3. Patent cervical vasculature without evidence of stenosis, 
occlusion, or 
dissection. 

MRI w/o contrast  ___
IMPRESSION:  
Normal brain MRI 

___ 09:30AM BLOOD WBC-5.0 RBC-5.92 Hgb-17.8* Hct-51.6* 
MCV-87 MCH-30.1 MCHC-34.5 RDW-12.8 RDWSD-39.9 Plt ___

___ 03:35PM BLOOD Neuts-48.4 ___ Monos-14.9* 
Eos-2.4 Baso-0.9 Im ___ AbsNeut-2.20 AbsLymp-1.50 
AbsMono-0.68 AbsEos-0.11 AbsBaso-0.04

___ 09:30AM BLOOD Glucose-99 UreaN-16 Creat-0.8 Na-137 
K-4.1 Cl-100 HCO3-24 AnGap-17

___ 04:50AM BLOOD ALT-20 AST-18 LD(LDH)-185 CK(CPK)-91 
AlkPhos-56 TotBili-0.8

___ 12:41PM BLOOD cTropnT-<0.01

___ 04:50AM BLOOD CK-MB-2 cTropnT-<0.01

___ 09:46PM BLOOD CK-MB-2 cTropnT-<0.01

___ 03:35PM BLOOD cTropnT-<0.01

___ 09:30AM BLOOD Phos-3.2 Mg-2.1

___ 04:50AM BLOOD %HbA1c-5.5 eAG-111

___ 04:50AM BLOOD Triglyc-266* HDL-34 CHOL/HD-6.7 
LDLcalc-142*

___ 07:40PM BLOOD Ethanol-NEG
 
Brief Hospital Course:
Patient is a ___ yo man with pmhx of HTN who presented with left 
hemibody face, arm and leg numbness and possibly mild associated 
weakness that lasted ___s chest pain that lasted 5 
min. His exam was nonfocal. His work up including labs was 
unremarkable, except for hyperlipidemia. Troponins were negative 
x3, EKG was normal, CXR was normal. A CTA was performed which 
showed patent vessels and no intracranial abnormality. An MRI 
showed minimal atherosclerotic disease, but no acute infarct. He 
was started on atorvastatin 40mg daily as well as Aspirin 81mg 
daily. Echo was performed and showed patent foramen ovale. 
Patient had already left prior to final Echo reading. Patient 
was called and informed about the results. He was instructed to 
present to the outpatient ___ lab for further work up 
including hyper-coaguable studies as well bilateral lower 
extremity ultrasound. He agreed to the additional work up. He 
has follow a up appointment scheduled with Dr. ___ in 
Neurology stroke clinic. He was also discharged with 
instructions for an outpatient holter monitor. He has been 
informed to come back to ___ ED should any focal neurological 
symptoms recur.   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 80 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*60 Tablet 
Refills:*0 
3.  Valsartan 80 mg PO DAILY 
RX *valsartan 80 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA
hypertension
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 
You were hospitalized due to symptoms of left-sided numbness. 
This may have been due to a TRANSIENT ISCHEMIC ATTACK, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot, which then clears. The brain is 
the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms.  

We did an MRI of your brain which showed no sign of stroke. we 
also did an echocardiogram (a movie of how your heart is 
pumping). Results of this study are still pending at this time. 
We will call you if there is any abnormal finding on the Echo.  
These symptoms may have been a warning sign that you are at risk 
for having a stroke.

While you were here you also had pain in your chest. We looked 
for any evidence of damage to your heart. Those tests were 
normal. We believe that this pain is probably musculoskeletal 
because it hurts when we press on your chest. We would recommend 
ibuprofen for this.
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
high blood pressure
high cholesterol
 
We would also like for you to get a test as an outpatient to 
complete your workup. A cardiac monitor (which looks for an 
abnormal heart rhythm). We have given you orders for these.

We are changing your medications as follows:  
starting aspirin 81 mg
starting atorvastatin 40 mg

We recommend that your blood pressure be lower than 140/90 to 
help protect your brain. You should continue to work with your 
primary care doctor on this. Sometimes aspirin can upset your 
stomach (and an upset stomach can feel like chest pain!) If this 
is the case please talk with your primary care doctor about ___ 
medication to treat this. 
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___